US04402958
6-Phenyl-3-methyl-1,2,4-triazolo[4,3-a]pyrazine
A solution of 0.5 g. (0.0027 mole) of 2-hydrazino-5-phenylpyrazine in 5.0 ml. of triethyl orthoacetate is heated under reflux for 5 hours. The crystalline product precipitates from the hot reaction solution, and at the end of the heating period the mixture is cooled and the product is collected. Recrystallization from ethanol gives 0.36 g. of the product of the example, m.p. 192°-195° C.

reactant | 2-hydrazino-5-phenylpyrazine | 0.0027 mole | N(N)C1=NC=C(N=C1)C1=CC=CC=C1 | C10H10N4
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
product | 6-Phenyl-3-methyl-1,2,4-triazolo[4,3-a]pyrazine | C1(=CC=CC=C1)C=1N=CC=2N(C1)C(=NN2)C | C12H10N4
